US07301032B2
1.0 g of 5-(2-norbornyl)-3-methylthio-1,2,4-thiadiazole was dissolved in 9 ml of chloroform, 3.67 g of 3-chloroperoxybenzoic acid (content>65%) was added thereto, and the reaction mixture was stirred for 30 minutes under ice-cooling and for 1 day at room temperature. Then, the reaction mixture was added to saturated sodium hydrogensulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogencarbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 833 mg of 5-(2-norbornyl)-3-methylsulfonyl-1,2,4-thiadiazole.

reactant | 5-(2-norbornyl)-3-methylthio-1,2,4-thiadiazole | 1.0 g | C12C(CC(CC1)C2)C2=NC(=NS2)SC | C10H14N2S2
reactant | 3-chloroperoxybenzoic acid | 3.67 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 9 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-norbornyl)-3-methylsulfonyl-1,2,4-thiadiazole | 833 mg | C12C(CC(CC1)C2)C2=NC(=NS2)S(=O)(=O)C | C10H14N2O2S2
